US06489485B2
A solution of 3-cyclopentyl-2-(4-nitro-phenyl)-N-thiazol-2-yl-propionamide (345 mg, 1.0 mmol) in ethyl acetate (100 mL) was treated with 10% palladium on activated carbon (34.5 mg). The reaction mixture was stirred under 60 psi hydrogen gas at 25° C. for 6 h. The catalyst was then removed by filtration through a pad of celite and was washed with ethyl acetate. The filtrate was concentrated in vacuo to give 2-(4-amino-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (288.3 mg, 91.4%) as a yellow solid: mp 102-107° C.; EI-HRMS m/e calcd for C17H21N3OS (M+) 315.1405, found 315.1401.

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-N-thiazol-2-yl-propionamide | 1.0 mmol, 345 mg | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O3S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 34.5 mg | [Pd] | Pd
product | 2-(4-amino-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 288.3 mg, 91.4% | NC1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C17H21N3OS
